US07429581B2
(i) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-[2-(2-methoxy-ethoxy)-ethoxymethyl]-1H-pyrazole-3-carboxylic acid ethyl ester
To a solution of 100 mg 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-hydroxymethyl-1H-pyrazole-3-carboxylic acid ethyl ester in 2 ml DMF 11 mg NaH (60% in mineral oil) were added at RT and stirred for 10 min. Then 100 mg 1-Bromo-2-(2-methoxy-ethoxy)-ethane were added and the mixture was stirred for 16 h. After addition of 5 ml of water the mixture was filtered through a chem elut® cartridge by elution with ethyl acetate and then concentrated under reduced pressure. The crude residue was directly subjected to the next reaction step. Yield: 130 mg.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-hydroxymethyl-1H-pyrazole-3-carboxylic acid ethyl ester | 100 mg | C(C)OC(=O)C1=NN(C(=C1)CO)CC1=NOC(=C1)C=1SC(=CC1)Cl | C15H14ClN3O4S
reactant | 1-Bromo-2-(2-methoxy-ethoxy)-ethane | 100 mg | BrCCOCCOC | C5H11BrO2
reactant | water | 5 ml | O | H2O
solvent | DMF | 2 ml, 11 mg | CN(C)C=O | C3H7NO
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-[2-(2-methoxy-ethoxy)-ethoxymethyl]-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1)COCCOCCOC)CC1=NOC(=C1)C=1SC(=CC1)Cl | C20H24ClN3O6S
